US06818767B2
A suspension of 900 mg (2.93 mmol) of 7-benzyloxy-6-butyl-1H-quinolin-4-one in 1.44 ml of POCl3 (15.8 mmol) was treated with 0.074 ml of N,N-dimethylaniline and heated at 60° C. for 3 h with stirring. The reaction mixture was then poured into ice water and stirred for 0.5 h. The solid which precipitated was filtered off by suction washed with water and dried in a high vacuum to give 1.05 g (99%) of 7-benzyloxy-6-butyl-4-chloro-quinoline hydrochloride as light gray solid. ISP mass spectrum, m/e: XX (M+1 calculated for C20H20ClNO: 325.84).

reactant | 7-benzyloxy-6-butyl-1H-quinolin-4-one | 2.93 mmol, 900 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(C=CNC2=C1)=O)CCCC | C20H21NO2
reactant | POCl3 | 15.8 mmol, 1.44 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 0.074 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 7-benzyloxy-6-butyl-4-chloro-quinoline hydrochloride | 1.05 g, 99% | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)CCCC | InChI=1S/C20H20ClNO.ClH/c1-2-3-9-16-12-17-18(21)10-11-22-19(17)13-20(16)23-14-15-7-5-4-6-8-15;/h4-8,10-13H,2-3,9,14H2,1H3;1H
